US09193669B2
Trifluoroacetic anhydride(0.75 ml, 4.49 mmol) was added to a mixture of 3-bromo-N-(cyclohexylmethyl)aniline (1.0 g, 3.74 mmol), TEA (0.8 ml) in CH2Cl2 at 0° C. in 10 min time. The reaction mixture was stirred for 30 min at room temperature and partitioned between saturated NaHCO3 and extracted with EtOAc three times. Combined organic layers were concentrated under reduced pressure to give N-(3-bromophenyl)-N-(cyclohexylmethyl)-2,2,2-trifluoroacetamide as a colorless liquid. Yield (1.0 g, 74%); 1H NMR (400 MHz, CDCl3) δ 7.56 (d, J=8.0 Hz, 1H), 7.39 (s, 1H), 7.31 (t, J=8.0 Hz, 1H), 7.18 (d, J=8.0 Hz, 1H), 3.61 (d, J=6.0 Hz, 2H), 1.72-1.64 (m, 5H), 1.51 (bs, 1H), 1.18-1.16 (m, 3H), 1.06-1.01 (m, 2H).

reactant | Trifluoroacetic anhydride | 4.49 mmol, 0.75 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-bromo-N-(cyclohexylmethyl)aniline | 3.74 mmol, 1.0 g | BrC=1C=C(NCC2CCCCC2)C=CC1 | C13H18BrN
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(3-bromophenyl)-N-(cyclohexylmethyl)-2,2,2-trifluoroacetamide | BrC=1C=C(C=CC1)N(C(C(F)(F)F)=O)CC1CCCCC1 | C15H17BrF3NO
